US08871767B2
N-[5-(6-aminoimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide
A 40-mL vial is charged with N-(2-methyl-5-(6-(3,4,5-trimethoxybenzylamino)imidazo[1,2-b]pyridazin-2-yl)phenyl)pivalamide (0.604 g, 1.2 mmol) and TFA (5 mL) and the mixture is stirred at 50° C. for 16 hours. The reaction mixture is concentrated, taken up in CH3CN and water is added. The mixture is concentrated to form solid from aqueous solution. The mixture is frozen and water is removed on a lyophilizer to afford the title compound (0.350 g). LCMS (m/z)=324.5 [M+H]+, tR=1.96 min.

reactant | N-(2-methyl-5-(6-(3,4,5-trimethoxybenzylamino)imidazo[1,2-b]pyridazin-2-yl)phenyl)pivalamide | 1.2 mmol, 0.604 g | CC1=C(C=C(C=C1)C=1N=C2N(N=C(C=C2)NCC2=CC(=C(C(=C2)OC)OC)OC)C1)NC(C(C)(C)C)=O | C28H33N5O4
reactant | TFA | 5 mL | C(=O)(C(F)(F)F)O | C2HF3O2
product | N-[5-(6-aminoimidazo[2,1-f]pyridazin-2-yl)-2-methyl-phenyl]-2,2-dimethyl-propanamide | 0.350 g | NC1=NN2C(C=C1)=NC(=C2)C=2C=CC(=C(C2)NC(C(C)(C)C)=O)C | C18H21N5O
